US04885302
(a) 1-Methyl-4-[(1,2,3,4-tetrahydro-2-isoquinolyl)carbonyl]pyridinium iodide
2 ml, equivalent to 4.26 g (30.2 mmol) of iodomethane and 6 g (25.2 mmol) of 2-[(4-pyridyl)carbonyl]1,2,3,4-tetrahydroisoquinoline are introduced into 200 ml of ethyl acetate, and the mixture is stirred for 24 h at room temperature. A yellow precipiatate forms, which is filtered off and washed with ether. 8.3 g of product are obtained, this being used without further treatment in the following stage.

reactant | iodomethane | 30.2 mmol, 4.26 g | IC | CH3I
reactant | 2-[(4-pyridyl)carbonyl]1,2,3,4-tetrahydroisoquinoline | 25.2 mmol, 6 g | N1=CC=C(C=C1)C(=O)N1CC2=CC=CC=C2CC1 | C15H14N2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-Methyl-4-[(1,2,3,4-tetrahydro-2-isoquinolyl)carbonyl]pyridinium iodide | 8.3 g | [I-].C[N+]1=CC=C(C=C1)C(=O)N1CC2=CC=CC=C2CC1 | InChI=1S/C16H17N2O.HI/c1-17-9-6-14(7-10-17)16(19)18-11-8-13-4-2-3-5-15(13)12-18;/h2-7,9-10H,8,11-12H2,1H3;1H/q+1;/p-1
